US05559230
1-[4-(2-Chlorobenzoylamino)benzoyl]-2,3-dihydro-1H-benzazepine (4.7 g) is dissolved in dichloromethane (50 ml) and thereto is added 80% m-chloroperbenzoic acid (3 g). The mixture is stirred at room temperature overnight. The dichloromethane layer is washed successively with saturated aqueous sodium hydrogen carbonate solution and saturated saline solution, and the solvent is distilled off under reduced pressure. The resulting residue is purified by silica gel column chromatography (eluent; dichloromethane:methanol=50:1) to give 4,5-epoxy-1-[4-(2-chlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (4.26 g) as white powder.

reactant | 1-[4-(2-Chlorobenzoylamino)benzoyl]-2,3-dihydro-1H-benzazepine | 4.7 g | ClC1=C(C(=O)NC2=CC=C(C(=O)N3CCC=CC4=C3C=CC=C4)C=C2)C=CC=C1 | C24H19ClN2O2
reactant | m-chloroperbenzoic acid | 3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4,5-epoxy-1-[4-(2-chlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 4.26 g | O1C2CCN(C3=C(C21)C=CC=C3)C(C3=CC=C(C=C3)NC(C3=C(C=CC=C3)Cl)=O)=O | C24H19ClN2O3
